US07435837B2
Treatment of (±)-[7-(4-chlorophenyl)-2,3-dihydro-1-benzofuran-2-yl]methyl 4-methylbenzenesulfonate (1.2 g, 2.89 mmol) with sodium azide (0.752 g, 11.57 mmol) generally according to the procedure described for Intermediate 98 afforded (±)-2-(azidomethyl)-7-(4-fluorophenyl)-2,3-dihydro-1-benzofuran. Treatment of the azide with sulfided platinum on carbon (0.082 g, 5 wt. %) generally according to the procedure described for Example 1 provided 0.592 g (69%) of (±)-1-[7-(4-chlorophenyl)-2,3-dihydro-1-benzofuran-2-yl]methanamine as a white solid, hydrochloride salt. mp 212-214° C.; Anal. calcd. for C15H14ClNOHCl: C, 60.83; H, 65.10; N, 4.73. Found: C, 59.99; H, 5.00; N, 4.47.

reactant | (±)-[7-(4-chlorophenyl)-2,3-dihydro-1-benzofuran-2-yl]methyl 4-methylbenzenesulfonate | 2.89 mmol, 1.2 g | CC1=CC=C(C=C1)S(=O)(=O)OCC1OC2=C(C1)C=CC=C2C2=CC=C(C=C2)Cl | C22H19ClO4S
reactant | sodium azide | 11.57 mmol, 0.752 g | [N-]=[N+]=[N-].[Na+]
reactant | (±)-2-(azidomethyl)-7-(4-fluorophenyl)-2,3-dihydro-1-benzofuran | N(=[N+]=[N-])CC1OC2=C(C1)C=CC=C2C2=CC=C(C=C2)F | C15H12FN3O
reactant | azide | [N-]=[N+]=[N-]
catalyst | sulfided platinum on carbon | 0.082 g | [Pt] | Pt
product | (±)-1-[7-(4-chlorophenyl)-2,3-dihydro-1-benzofuran-2-yl]methanamine | 0.592 g, 69% | ClC1=CC=C(C=C1)C1=CC=CC=2CC(OC21)CN | C15H14ClNO
